US06228877B1
200 mg of 1-methyl-6-trifluoroacetylaminoindole was taken into 5 mL ether and cooled to 0° C. It was treated with 0.485 mL 2.0 M oxalyl chloride/methylene dichloride and stirred at 0° C. for 2 h. The yellow crystals were collected and washed with ether and dried in vacuo to yield 240 mg of (6-trifluoroacetylamino-1-methyl-1H-indol-3-yl)-oxo-acetyl chloride.

reactant | 1-methyl-6-trifluoroacetylaminoindole | 200 mg | CN1C=CC2=CC=C(C=C12)NC(C(F)(F)F)=O | C11H9F3N2O
reactant | oxalyl chloride methylene dichloride | 2.0 M, 0.485 mL | C(C(=O)Cl)(=O)Cl.C(Cl)Cl
solvent | ether | 5 mL | CCOCC | C4H10O
product | (6-trifluoroacetylamino-1-methyl-1H-indol-3-yl)-oxo-acetyl chloride | 240 mg | FC(C(=O)NC1=CC=C2C(=CN(C2=C1)C)C(C(=O)Cl)=O)(F)F | C13H8ClF3N2O3
